US04710507
A mixture of 8-methylsulphinyl-6-[1-methyl-1,2,4-triazol-5-yl]-2-(1H)-quinolone (0.097 g) and m-chloroperbenzoic acid (0.088 g) in chloroform (10 cm3) was stirred for 18 hours at room temperature. The mixture was then concentrated in vacuo and the residue was chromatographed on silica (Merck "MK 60.9385" [Trade Mark]), eluting with ethyl acetate:methanol, 19:1. Combination and evaporation of the appropriate fractions afforded a solid which was recrystallised from dichloromethane/hexane to give 8-methylsulphonyl-6-[1-methyl-1,2,4-triazol-5-yl]-2-(1H)-quinolone, m.p. 226°-232° (0.051 g).

reactant | 8-methylsulphinyl-6-[1-methyl-1,2,4-triazol-5-yl]-2-(1H)-quinolone | 0.097 g | CS(=O)C=1C=C(C=C2C=CC(NC12)=O)C1=NC=NN1C | C13H12N4O2S
reactant | m-chloroperbenzoic acid | 0.088 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 10 cm3 | C(Cl)(Cl)Cl | CHCl3
product | 8-methylsulphonyl-6-[1-methyl-1,2,4-triazol-5-yl]-2-(1H)-quinolone | CS(=O)(=O)C=1C=C(C=C2C=CC(NC12)=O)C1=NC=NN1C | C13H12N4O3S
